US07652028B2
A mixture of methyl 2-bromomethyl-3-cyanobenzoate (14.1 g, 55.5 mmol) and homophtalic anhydride (22.5 g, 138.8 mmol) in acetonitrile (150 mL) was stirred at room temperature. A solution of triethylamine (23.2 mL) in acetonitrile (100 mL) was added dropwise over the period of 1 hour. After the completion of addition, the resultant suspension was refluxed for 4 hours. The reaction mixture was then cooled to room temperature and filtered. The resultant solid was washed thoroughly with acetonitrile (100 mL) and ethanol (2×100 mL) and dried in vacuum oven at 50° C. to provide methyl 5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline-10-carboxylate was obtained in 81% yield (13.1 g). 1H NMR spectrum (in DMSO-d6): δ 12.21 (s, 1H); 8.20 (m, 2H); 7.83 (d, J=7.5 Hz, 1H); 7.71 (m, 2H); 7.47 (m, 2H); 4.07 (s, 2H); 3.89 (s, 3H).

reactant | methyl 2-bromomethyl-3-cyanobenzoate | 55.5 mmol, 14.1 g | BrCC1=C(C(=O)OC)C=CC=C1C#N | C10H8BrNO2
reactant | homophtalic anhydride | 138.8 mmol, 22.5 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | triethylamine | 23.2 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | methyl 5,6-dihydro-5-oxo-11-H-indeno[1,2-c]isoquinoline-10-carboxylate | 81% yield | O=C1NC2=C(C3=CC=CC=C13)CC=1C(=CC=CC12)C(=O)OC | C18H13NO3
